US08420640B2
To a solution of N-Phenyl-5-bromo-2-nitrobenzenamine (0.9 g, 3.2 mmol) and 3-carboxyphenylboronic acid (0.64 g, 3.92 mmol) in Toluene: EtOH: H2O (8:8:1) was added K2CO3 (1.4 g, 9.78 mmol). After stirring reaction for 15 min under argon tetrakis (triphenylphosphine) palladium (0.184 mg, 0.016 mol) was added, resulting mixture was then heated at 100° C. for 12 h. The reaction mixture was cooled to room temperature and diluted with ethyl acetate and extracted three times with water. The aqueous layer was then acidified with 2M HCl to get 4′-nitro-3′-(phenylamino) biphenyl-3-carboxylic acid (0.8. g), 84% yield. 1H NMR (500 MHz, DMSO): δ 7.23 (m, 2H), 7.44 (m, 4H), 7.61 (t, J=7.7 Hz, 1H), 7.83 (d, J=7.7 Hz, 1H), 8.00 (d, J=7.7 Hz 1H), 8.07 (s, 1H), 8.25 (d, J=9 Hz, 1H), 9.50 (s, 1H), 13.15 (bs, 1H). HRMS (ESI) calculated for C19H14N2NaO4: 357.0846, Found: 357.0816.

reactant | N-Phenyl-5-bromo-2-nitrobenzenamine | 3.2 mmol, 0.9 g | C1(=CC=CC=C1)NC1=C(C=CC(=C1)Br)[N+](=O)[O-] | C12H9BrN2O2
reactant | 3-carboxyphenylboronic acid | 3.92 mmol, 0.64 g | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | K2CO3 | 9.78 mmol, 1.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | Toluene EtOH H2O | C1(=CC=CC=C1)C.CCO.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-nitro-3′-(phenylamino) biphenyl-3-carboxylic acid | 84% yield | [N+](=O)([O-])C1=C(C=C(C=C1)C1=CC(=CC=C1)C(=O)O)NC1=CC=CC=C1 | C19H14N2O4
